US09127003B2
(R)-(3-Aminopiperidin-1-yl)(2-(1-ethyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone
To a stirred solution of (R)-tert-butyl(1-(2-(1-ethyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate (24 mg, 0.045 mmol) in DCM (2 mL) was added TFA (2 mL, 26.0 mmol) dropwise with continuous stirring. The reaction was stirred at room temperature under nitrogen for 1 h. The reaction mixture was concentrated in vacuo before being dissolved in MeOH and purified by SPE on sulfonic acid (SCX) 1 g, first washing with MeOH and then eluting using a 10% NH3/MeOH solution to give the free base of the product. The appropriate fractions were combined and evaporated in vacuo before being azeotroped with cyclohexane to give the title compound as a pale yellow solid (13 mg).

reactant | (R)-tert-butyl(1-(2-(1-ethyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate | 0.045 mmol, 24 mg | C(C)(C)(C)OC(N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=C(C3)OC)N2CC)C)C=C1)=O | C29H36N6O4
reactant | TFA | 26.0 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)-(3-Aminopiperidin-1-yl)(2-(1-ethyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazol-5-yl)methanone | 13 mg | N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=C(C3)OC)N2CC)C)C=C1 | C24H28N6O2
